Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Reglan / Compazine / Cipro
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
n/a

attach
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 03:00AM BLOOD WBC-4.8 RBC-3.40* Hgb-9.5* Hct-29.7* 
MCV-87 MCH-27.9 MCHC-32.0 RDW-13.2 RDWSD-41.9 Plt ___
___ 03:00AM BLOOD Neuts-73* Bands-3 Lymphs-10* Monos-11 
Eos-2 Baso-1 AbsNeut-3.65 AbsLymp-0.48* AbsMono-0.53 AbsEos-0.10 
AbsBaso-0.05
___ 03:00AM BLOOD ___ PTT-27.2 ___
___ 03:00AM BLOOD Plt Smr-HIGH* Plt ___
___ 03:00AM BLOOD Glucose-103* UreaN-18 Creat-0.9 Na-140 
K-2.8* Cl-94* HCO3-31 AnGap-15
___ 03:00AM BLOOD ALT-23 AST-29 AlkPhos-87 TotBili-0.6
___ 03:00AM BLOOD Albumin-3.4* Calcium-8.7 Phos-3.4 Mg-1.9

INTERIM:
___ 07:30  Copper103 
___ 06:10  Vitamin B1 202  H 
___ 07:45  Zinc 48  L 
___ 11:15  Sed Rate  29 
___ 07:06  Aldosterone39 
___ 04:47  Aldosterone42
___ 04:47  ACTH  12

PERTINENT IMAGING 
#ERROR!
___ CT ABD AND PELVIS W & W/O CONTRAST
1. There is a stable appearance status-post colectomy and end 
ileostomy ___ the right lower quadrant and urostomy ___ the left 
lower quadrant. 
2. The anterior abdominal fluid collection is decompressed, 
containing scant fluid and gas locules with a pigtail catheter 
___ situ.  With instillation of contrast into the pigtail drain, 
there is intraluminal opacification of small bowel loops, 
suggestive either fistula from the fluid collection into 
small-bowel or migration of the tube into a small bowel loop. 
3. Unchanged thickening and coarse trabeculations of the left 
iliac bone, 
consistent with Paget's disease. 
4. There is a stable appearing 0.9 cm nodular opacity ___ the 
right lower lobe. 

___ CT ABD AND PELVIS WITH CONTRAST
-The superior pigtail drainage catheter appears to have its 
pigtail within the small bowel. 
-The more inferior pigtail drainage catheter appears to be 
within the gas and feces containing collection ___ the anterior 
abdomen which is similar ___ size when compared to the prior 
study. 
-Unchanged 11 mm soft tissue density lesion ___ the left kidney 
for which 
ultrasound is previously been recommended. 

___ CXR
There is a new consolidative opacity ___ the right middle lobe 
concerning for pneumonia.  Heart size is normal.  There is no 
pleural effusion.  No 
pneumothorax is seen.  Left-sided PICC line projects to the 
cavoatrial 
junction.  Cardiomediastinal silhouette is stable. 

MICROBIOLOGY:
#ERROR!
___ CULTURE-FINAL {PSEUDOMONAS 
AERUGINOSA}

GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

___ SCREEN NEGATIVE
___ URINE CULTURE-FINAL 
{ESCHERICHIA COLI}INPATIENT
___ CULTURE x2: NO GROWTH
___

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

DISCHARGE LABS
#ERROR!
___ 05:54AM BLOOD WBC-10.1* RBC-3.08* Hgb-8.5* Hct-28.1* 
MCV-91 MCH-27.6 MCHC-30.2* RDW-15.1 RDWSD-50.2* Plt ___
___ 05:54AM BLOOD Glucose-164* UreaN-29* Creat-0.9 Na-137 
K-4.9 Cl-102 HCO3-28 AnGap-7*
___ 05:54AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.4
 
Brief Hospital Course:
SUMMARY:
#ERROR!
Ms. ___ is a ___ Y/o F w/ Crohn's disease s/p total 
proctocolectomy w/ end ileostomy, urostomy, and multiple 
intraabdominal abscesses, on TPN, Afib, asthma and ___ 
Disease, who presented for hypokalemia ___ setting of GI losses 
from increased diuretics. Lasix was discontinued and she 
received aggressive repletion. Without diuretics, she became 
fluid overloaded and was very uncomfortable, so initially was 
started on potassium sparing diuretic, then also required 
Torsemide, which she was discharged on. Her TPN potassium was 
also increased and she did not require daily repletion of 
potassium at time of discharge. Her course was further 
complicated by sinus tachycardia, acute on chronic heart failure 
with preserved ejection fraction, acute blood loss anemia 
requiring transfusion, and hospital-acquired pneumonia.

**Of note, she had a prolonged hospitalization and was initially 
hesitant to be discharged home, then left the hospital without 
the discharge paperwork stating she was ___ a rush to leave with 
her family. She was called shortly after this was discovered to 
review her medication reconciliation over the phone.**

TRANSITIONAL ISSUES:
#ERROR!
[ ] recheck electrolytes on ___, replete magnesium to 
2 and potassium to 4
[ ] recheck CBC at followup
[ ] please ensure followup with her endocrinologist 
[ ] if increasing volume status/leg edema, consider uptitrating 
spironolactone and/or Torsemide
[ ] titrate metoprolol for sinus tachycardia, discharged on ___ 
dosing, concern that she was not absorbing succinate as HR 
better controlled with tartrate, though she did not tolerate q6H 
dosing
[ ] will complete 1 more dose of 5-day treatment with levaquin 
for hospital-acquired pneumonia
[ ] repeat EKG to check QTC, which was 500 on admission ___ 
setting of patient taking home Zofran
[ ] hold Zofran until finished course of Levaquin, then start 
twice daily
[ ] incidental soft tissue density lesion ___ the left kidney was 
stable, renal ultrasound recommended previously
[ ] incidental pulmonary nodule seen 
[ ] discharged on flexeril for hand cramping, please stop as 
soon as symptoms improve
[ ] Consider iron supplementation for iron deficiency anemia 
after treatment of infection
[ ] alk phos found to be elevated, would recheck
[ ] mildly elevated INR, thought nutritionally mediated

[ ] Please review medications with her. She left the hospital 
without the paperwork. We called her to tell her the medications 
over the phone but she would benefit from further clarification 
of her new/changed medications at discharge.

ACUTE ISSUES:
#ERROR!
#Hypokalemia: 
Hypokalemia to 2.8. She received potassium repletion and 
potassium normalized. Her acute drop ___ potassium attributed to 
increased doses of Lasix. Her home Lasix was stopped and she was 
started on spironolactone and torsemide. She was continued on 
TPN with potassium supplementation. She did not require 
supplement on discharge but if she does ___ future, please ensure 
it is powder, not pills, as these were seen exiting her ostomy 
whole.

#Chronic abdominal pain/nausea:
#Crohn's disease s/p total proctocolectomy w/ end ileostomy, 
urostomy, and multiple intraabdominal abscesses, on TPN
Patient with chronic abdominal pain that remained at baseline, 
but she complained of high output from abscess drains. Abdominal 
pain initially thought due to secondary adrenal insufficiency, 
but this was disproved as she appropriately increased with ___ 
stim test. She continued to have persistent abdominal pain 
throughout the admission, attributed to her Crohns disease. 
Colorectal surgery was consulted for this, and for high output 
from drains, but serial imaging was stable and there was no 
surgical intervention to offer. Inflammatory markers mildly 
elevated. GI team contacted regarding this and said nothing 
actively to do for her known fistulizing disease right now. Her 
RUQ drain was removed prior to discharge due to poor output. She 
continued home dilaudid. For nausea, she was taking TID Zofran 
at home but QTc was prolonged on admission. She had IV Ativan 
available initially which she was taking prior to any intake, 
but over her hospital course her nausea improved and she was 
able to resume Zofran with use ___ x per day. This was held 
briefly on discharge due to pneumonia treatment with 
fluoroquinolone.

#Acute on chronic heart failure with preserved ejection fraction
#Hand cramping
She was ___ sinus tachycardia with associated dyspnea despite 
diuresis and pain control (below). TTE showed preserved systolic 
function, EF 70%. Given tachycardia, dyspnea, and peripheral 
edema ___ setting of malnutrition, there was concern for 
high-output heart function on TTE due to wet beriberi disease. 
She was initiated on thiamine supplementation through her TPN. 
Her thiamine level subsequently was normal. She diuresed well to 
40 mg Torsemide daily however complained that she did not feel 
well when taking it, so dosing was decreased to 20 mg for 
maintenance. Also started and uptitrated spironolactone, but 
this was decreased on discharge due to feeling weak after taking 
diuretics and too much output from her urostomy for patient_x0092_s 
comfort. She developed hand cramping ___ this setting, which 
improved with diuretics and flexeril, which should be 
discontinued as soon as feasible.

#Hx Atrial fibrillation: 
#Sinus tachycardia:
#Exertional dyspnea and chest discomfort
She was not ___ Afib during this hospitalization, rather sinus 
tachycardia on telemetry, had intermittent palpitations with 
exertional dyspnea and chest pain. She was initially on tartrate 
Q6H and heart rates were ___ to low 100s, however later ___ 
hospitalization noted up to the 130s periodically and often 
sustained ___ 110s-120s. Initially this was thought possibly 
related to dehydration from high GI output from drains, acute on 
chronic anemia, and inadequate absorption of metoprolol 
succinate as her heart rates seemed to climb after consolidation 
from tartrate and there was concern for residue ___ her ostomy 
after taking metop succinate. She received IVF resuscitation, 1u 
pRBC, and replaced back on metoprolol tartrate which was 
uptitrated and dosed Q8H for ease of use and better tolerated 
than Q6H dosing. PE was also considered but felt less likely 
with negative DVT studies, troponin, BNP, and no EKG changes. 
Avoided CTA given 2 recent contrast loads. Also possible her 
tachycardia was ___ response to pneumonia as below, and 
deconditioning, though she was independent and did not require 
___ evaluation.

#Hospital-acquired pneumonia:
She developed productive cough during admission with new 
leukocytosis (neutrophilic predominance), found with RML 
consolidation on CXR concerning for HAP. Given risk of MDRO due 
to abx within 30 days (Augmentin ___, she was covered 
with cefepime. Sputum culture grew pan-sensitive pseudomonas and 
she was narrowed on discharge to levofloxacin to complete a 
7-day course (___). Cough treated symptomatically.

#Acute on chronic Anemia ___ acute blood loss: baseline ___. 
Iron labs consistent with iron deficiency anemia. Also concern 
for GI bleed as her hemoglobin dropped to 7.0 requiring 1 unit 
red blood cell. This was thought due to known bloody output from 
her abscess drain and possibly some bone marrow suppression iso 
acute illness. No other signs of bleeding.

#+ UA with E coli pansensitive
Thought likely to be colonization, not treated.

CHRONIC ISSUES:
#ERROR!
#Depression: continued home citalopram. Noted to have anxiety 
about repeated hospitalizations.

#Hyperglycemia: Noted on chemistry panels, HbA1c 5.6%.

CORE MEASURES
#ERROR!
#CODE: full code (confirmed) 
#CONTACT: ___ ___ ___

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
2. Citalopram 20 mg PO DAILY 
3. Furosemide 60 mg PO DAILY 
4. Zolpidem Tartrate 7.5 mg PO QHS 
5. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
6. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
7. Aspirin 325 mg PO DAILY 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Fluticasone Propionate NASAL 2 SPRY NU BID 
10. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
11. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation DAILY:PRN 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID  
2.  Cyclobenzaprine 5 mg PO BID:PRN hand spasm  
3.  GuaiFENesin ___ mL PO Q6H:PRN cough  
4.  LevoFLOXacin 750 mg PO DAILY Duration: 1 Day  
5.  Metoprolol Tartrate 25 mg PO Q8H  
6.  Spironolactone 50 mg PO DAILY  
7.  Torsemide 20 mg PO DAILY  
8.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze  
9.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
10.  Aspirin 325 mg PO DAILY  
11.  Citalopram 20 mg PO DAILY  
12.  Fluticasone Propionate NASAL 2 SPRY NU BID  
13.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
14.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation DAILY:PRN  
15.  Zolpidem Tartrate 7.5 mg PO QHS  
16. HELD- Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First 
Line  This medication was held. Do not restart Ondansetron until 
you finish levaquin. When you restart ondansetron, please do not 
take more than two times a day. 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis:
#ERROR!
hypokalemia
Crohns ___
Hospital acquired pneumonia 
sinus tachycardia 
acute on chronic anemia 

Secondary diagnosis:
#ERROR!
Pyuria
Hypertension
Anemia
Depression
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
#ERROR!
- Your potassium level was low

WHAT HAPPENED WHILE I WAS ___ THE HOSPITAL?
#ERROR!
- You were given potassium to correct your low levels.
- You had abdominal imaging tests to ensure that the location of 
her drains are ___ the right place.  One of your drains was 
removed by colorectal surgeons.
- You received diuretic medications to remove fluid from your 
body
- You were also diagnosed with pneumonia and started taking 
antibiotics to treat the infection. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
#ERROR!
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  
- Please continue to weigh yourself daily.  If your weight 
increases by more than 3 pounds, please call your doctor.

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___